US08138181B2
Step 2D: Preparation of (cis)-tert-butyl 4-amino-3-fluoropiperidine-1-carboxylate:
Palladium on carbon (10%, 0.876 g, 0.823 mmol) was added to a solution of (cis)-tert-butyl 4-azido-3-fluoropiperidine-1-carboxylate (2.01 g, 8.23 mmol) dissolved in THF and EtOH (1:1, 82 mL). The reaction was placed under a hydrogen atmosphere (balloon pressure) and stirred for 2 hours. The mixture was filtered through GF/F paper and concentrated in vacuo. The amine was purified on a Varian Bond Elut SCX column, eluting with methylene chloride followed by a solution of MeOH containing 6% aqueous NH4OH. The second eluant was concentrated in vacuo to provide the desired product (642 mg). MS ESI (+) m/z 218.8 (M+1) detected.

reactant | (cis)-tert-butyl 4-azido-3-fluoropiperidine-1-carboxylate | 8.23 mmol, 2.01 g | N(=[N+]=[N-])[C@@H]1[C@@H](CN(CC1)C(=O)OC(C)(C)C)F | C10H17FN4O2
catalyst | Palladium on carbon | 0.823 mmol, 0.876 g | [Pd] | Pd
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOH | 82 mL | CCO | C2H6O
product | (cis)-tert-butyl 4-amino-3-fluoropiperidine-1-carboxylate | 642 mg | N[C@@H]1[C@@H](CN(CC1)C(=O)OC(C)(C)C)F | C10H19FN2O2
